US04727073
A solution of ethyl 2-(3,4-dimethoxybenzoyl)-2-(dimethylaminomethylene)acetate (31 g), acetoamidine hydrochloride (13.3 g) and triethylamine (16.2 g) in ethanol (200 ml) was refluxed for 10 hours under stirring. The reaction mixture was evaporated in vacuo and the residue was dissolved in a mixture of ethyl acetate and water. The separatedorganic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was crystallized from ethyl ether to give ethyl 2-methyl-4-(3,4-dimethoxyphenyl)-5-pyrimidinecarboxylate (14 g).

reactant | ethyl 2-(3,4-dimethoxybenzoyl)-2-(dimethylaminomethylene)acetate | 31 g | COC=1C=C(C(=O)C(C(=O)OCC)=CN(C)C)C=CC1OC | C16H21NO5
reactant | acetoamidine hydrochloride | 13.3 g | Cl.C(C)(=N)N
reactant | triethylamine | 16.2 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | ethyl 2-methyl-4-(3,4-dimethoxyphenyl)-5-pyrimidinecarboxylate | 14 g | CC1=NC=C(C(=N1)C1=CC(=C(C=C1)OC)OC)C(=O)OCC | C16H18N2O4
